US08022209B2
To a vial was added 2-chloro-4-bromopyridine (96 mg, 0.5 mmol), Pd(PPh3)4 (30 mg), and toluene/EtOH (4:1, 3 mL). After stirring at room temperature for 5 min, 3-fluoro-4-methylphenylboronic acid (115 mg, 0.75 mmol) and 2 M aqueous K2CO3 (1 mL) were added, and the resulting mixture was heated at 90° C. for 16 h. The resulting mixture was poured into water and extracted with EtOAc. The organic layer was dried and concentrated, and the residue was purified by preparative TLC (hexanes/EtOAc) to yield 2-chloro-4-(3-fluoro-4-methyl-phenyl)-pyridine as a solid.

reactant | 2-chloro-4-bromopyridine | 0.5 mmol, 96 mg | ClC1=NC=CC(=C1)Br | C5H3BrClN
reactant | toluene EtOH | 3 mL | C1(=CC=CC=C1)C.CCO
reactant | 3-fluoro-4-methylphenylboronic acid | 0.75 mmol, 115 mg | FC=1C=C(C=CC1C)B(O)O | C7H8BFO2
reactant | K2CO3 | 2 M, 1 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 2-chloro-4-(3-fluoro-4-methyl-phenyl)-pyridine | ClC1=NC=CC(=C1)C1=CC(=C(C=C1)C)F | C12H9ClFN
